US07977358B2
E] (3-Diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone
A solution of 0.101 g (0.24 mmol) of (3-diethylamino-pyrrolidin-1-yl)-[4-methyl-5-(3-trimethylsilanylethynyl-phenyl)-1H-pyrazol-3-yl]-methanone in 2.4 ml THF at 0° C. was treated with 0.26 ml (0.26 mmol) of 1M tetrabutylammonium fluoride in THF. The reaction was stirred at this temperature for 1.5 h and then partitioned between water/Et2O (3×). The organic phases were washed with water, dried (Na2SO4) and evaporated to give 0.084 g (quant) of the title compound as yellow foam. MS: 351.3 (MH+).

reactant | (3-diethylamino-pyrrolidin-1-yl)-[4-methyl-5-(3-trimethylsilanylethynyl-phenyl)-1H-pyrazol-3-yl]-methanone | 0.24 mmol, 0.101 g | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C[Si](C)(C)C)CC | C24H34N4OSi
reactant | tetrabutylammonium fluoride | 0.26 mmol, 1M, 0.26 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
product | (3-Diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C)CC | C21H26N4O
